US07964633B2
4-Bromo-2-methoxymethyl-furan
To a solution of 1.062 g (4-bromo-furan-2-yl)-methanol in 10 ml dimethylsulfoxide was added 0.288 of sodium hydride (55%) in oil and 0.56 ml of iodomethane and the reaction mixtures was stirred at room temperature for 18 h. The reaction mixture was partitioned between ethyl acetate and water. The phases were separated; the organic phase was washed with citric acid (10% in water), water, satd. sodiumbicarbonate and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel to yield 0.731 g of a light yellow liquid.

reactant | (4-bromo-furan-2-yl)-methanol | 1.062 g | BrC=1C=C(OC1)CO | C5H5BrO2
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.56 ml | IC | CH3I
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-Bromo-2-methoxymethyl-furan | 0.731 g | BrC=1C=C(OC1)COC | C6H7BrO2
